Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Sent in with elevated d-dimer and tachycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with a history of
opioid use disorder in remission, depression,
hypertriglyceridemia, and tobacco use disorder who was referred
to the ED by her PCP after she was found to be tachycardic in 
the
150s with an elevated D-dimer.

She reports that about 10 days ago, she developed generalized
body aches, joint pain in her ankles and hands, swelling in her
ankles, mild sore throat, and canker sores in her mouth. She 
went
to the ___ ER and was discharged home with a prescription for
methocarbamol, which she started taking but this did not
alleviate her symptoms. After this, she developed a pruritic,
pustular rash over her face, chest, arms, and upper back. She
went in to urgent care on ___ or ___ because the 
swelling
in her lower extremities was getting worse. She was prescribed
Lasix and made an appointment for follow up with her PCP on
___. She went in to her PCP and was found to be
tachycardic with an elevated D-dimer and was sent to the ED. 

Over the last 10 days, she reports her joint pain and body aches
have improved. The sore throat is resolved. The rash is stable 
to
slightly improved. The ___ edema is worse, however.

She denies chest pain, shortness of breath,
lightheadedness/dizziness. No coughing or hemoptysis. No
orthopnea or PND. No headaches, visual changes. No abdominal
pain, nausea, vomiting, diarrhea. She is slightly constipated. 
No
dysuria, no frothy urine. 

She has not been immobilized. No long distance travel recently.
She does smoke cigarettes and does not take OCPs. ___ edema is
symmetric. No personal history of malignancy. No family history
of clotting disorder. No history of miscarriage.
 
Past Medical History:
obesity
dyslipidemia

 
Social History:
___
Family History:
HTN - mother
CAD - maternal grandmother
___ - both sides of the family
Alcohol use disorder - both parents
 
Physical Exam:
ADMISSION EXAM
VITALS: T 98.2, HR 97, BP 121/84, RR 18, SpO2 97% on RA
GENERAL: Alert, NAD, breathing room air comfortably
EYES: Anicteric, PERRL
ENT: Aphthous ulcers involving buccal mucosa and the sides of 
the
tongue
CV: Tachycardic, regular rhythm, no m/r/g, JVP not elevated
RESP: CTAB, no wheezes, crackles, or rhonchi
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
EXT: ___ non-pitting edema in bilateral ___ up to the mid-shin
SKIN: Pustular rash (many lesions are excoriated with overlying
eschar) involving the face, chest, arms, and upper back
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
CTA chest ___
Small segmental pulmonary embolus in the posterior segment of 
the
right lower lobe. 

ADMISSION LABS
WBC 11.8; otherwise CBC wnl
Chem7 wnl
ALP 130, otherwise LFTs wnl
D-dimer 853
INR 1, PTT 33.6
proBNP 61
TSH 0.86
 
Brief Hospital Course:
Ms. ___ is a ___ female with a history of opioid use 
disorder in remission, depression, hypertriglyceridemia, and 
tobacco use disorder who was referred to the ED by her PCP for 
tachycardia and an elevated D-dimer. She was found to have a 
small segmental PE. Also with an odd constellation of new 
symptoms including recent facial and truncal macular/acneiform 
rash, new bilateral ___ edema and hand puffiness, aphthous 
ulcers, polyarthralgias, and pharyngitis.

# RLL segmental PE
This preliminarily appears to be an unprovoked PE. She does not 
take OCPs and is not currently pregnant. When her labs were last 
checked, her folate level was undetectable. It is unclear why 
her folate level would be so low as she does not have an alcohol 
use disorder and has no dietary restrictions. Perhaps elevated 
homocysteine levels in the setting of folate deficiency could 
have predisposed her to thrombosis? Beta-2-Glycoprotein 
antibodies and cardiolipin antibodies were sent and are pending. 

She was started on warfarin 5 mg daily with a lovenox bridge 
(her health insurance generally does not approve DOACs without a 
warfarin failure). She was treated with Lovenox, which will be 
continued to therapeutic INR. She will be followed at ___ 
___ clinic, and arrangements were made for her to 
get her INRs checked at ___, which is closer to her 
home.
Unless her odd constellation of symptoms is found to be a 
reversible process that could potentially explain her VTE, she 
will likely need lifelong anticoagulation.

# Bilateral ___ edema
Non-pitting lower extremity edema and puffy hands in a pattern 
clinically more suggestive of myxedema than anything else, 
although TSH was not abnormal. LENIs were negative for DVT 
bilaterally. JVP and BNP were low and TTE was unremarkable, so 
CHF is excluded. LFTs are within normal limits and she has no 
history of chronic liver disease. No proteinuria, so nephrotic 
syndrome is excluded. She had been trying Lasix and NSAIDs for 
the swelling previously, but was counseled that these are both 
unlikely to help and was given compression stockings. 

# Polyarthralgias 
# Pustular rash
# Aphthous ulcers
The patient was seen by rheumatology, who suspected a viral 
syndrome; they comment that SLE could explain some of the 
symptoms, and also comment that while Behcet's may present with 
oral ulcer associated with VTE, it is vanishingly rare in 
patient's of ___ heritage. Seen by ID who did not feel that 
the rash was typical of any viral exanthem, but wondered if it 
could be an unusual presentation of a drug rash.  
If these symptoms do not continue to improve or are recurrent, 
would consider working
up for a rheumatologic process. 
___ negative, CRP not elevated, HIV negative, Lyme negative, HCV 
and HBV negative, VZV negative, monospot negative. RPR, EBV, 
parvovirus B19,  dsDNA are pending.

# MDD - continue home citalopram 20 mg daily

# Contacts/HCP/Surrogate and Communication: ___ (aunt)
___
# Code Status/ACP: Full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Furosemide Dose is Unknown  PO DAILY 
3. Methocarbamol Dose is Unknown  PO Frequency is Unknown 
4. Ibuprofen 600 mg PO BID:PRN Pain - Mild 

 
Discharge Medications:
1.  Enoxaparin Sodium 70 mg SC Q12H 
RX *enoxaparin 80 mg/0.8 mL 80 mg SQ twice a day Disp #*28 
Syringe Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 2.5 mg 2 tablet(s) by mouth qPM Disp 
#*60 Tablet Refills:*0 
4.  Citalopram 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a pulmonary embolism, or blood clot that 
went to the lung. We are giving you warfarin (Coumadin) to thin 
your blood for at least the next three months. You will take 
twice daily enoxaparin (Lovenox) shots for a few days until the 
warfarin has fully taken effect. We follow a measure of blood 
clotting called INR to know if warfarin is being dosed 
appropriately. A therapeutic INR is between 2.0 and 3.0. 

You will be followed by the ___ clinic at ___, 
which is affiliated with your PCP ___.  However, you 
can get your INR checked at ___. Just go to 
“pre-admissions testing” which near the main entrance, 
downstairs near ___. When the lab result comes back, 
you will be called by the pharmacist in town to adjust your 
warfarin dose as needed. 

Your first INR check will be on ___.  They tell me there will 
be a standing order for labs in place and ___ will be 
expecting you, but I have also given you a paper script for 
bloodwork just in case. 

You also had a variety of unusual symptoms that may have been 
symptoms a virus, an adverse reaction to a medication, 
deficiency of the vitamin folic acid, or an autoimmune disease. 
We went a very large number of tests to figure out what might be 
going on. I will call you if anything really notable comes back 
positive. If the symptoms persist, you have an appointment with 
Dr. ___ rheumatology to do further workup. If the 
symptoms all go away, then it was unlikely to have been an 
autoimmune disease and you are welcome to cancel this 
appointment  (___).

 
Followup Instructions:
___